data/oMe_Silver.jsonl
{"reaction_id": "NR-049_1-CCCC(C)C_2-C(F)(F)F_3-C_4-CCCC(C)C","name": "Corey-Seebach Reaction","level": "easy","reactants_smiles": ["S(CCCC(C)C)C(C(F)(F)F)S(CCCC(C)C)","O=C(C)(CCCC(C)C)"],"products_smiles": ["S(CCCC(C)C)C(C(F)(F)F)(C(O)(C)(CCCC(C)C))S(CCCC(C)C)"],"conditions": "1) n-BuLi 2) Benzaldehyde 3) H3O+ workup","mechnism_text_description": "The mechanism begins with the deprotonation of 2-ethyl-1,3-dithiane (CCC1SCCS1) at the C2 position by n-butyllithium (n-BuLi), forming a nucleophilic lithiated dithiane carbanion. This carbanion then undergoes nucleophilic addition to the electrophilic carbonyl carbon of benzaldehyde (O=Cc1ccccc1), generating a lithium alkoxide intermediate. Finally, protonation of this alkoxide by an acidic workup (e.g., H3O+) yields the final product, 2-ethyl-2-(hydroxy(phenyl)methyl)-1,3-dithiane.","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "S(CCCC(C)C)[C-](C(F)(F)F)S(CCCC(C)C)","step_weight": 0,"rationale": "n-BuLi abstracts the acidic C2 proton, as the adjacent sulfurs stabilize the resulting carbanion through inductive withdrawal and resonance, making deprotonation thermodynamically favorable."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "S(CCCC(C)C)C(C(F)(F)F)(C([O-])(C)(CCCC(C)C))S(CCCC(C)C)","step_weight": 0,"rationale": "The carbanion attacks the aldehyde’s electrophilic carbonyl carbon, driven by strong nucleophilicity and polarization of the C=O bond, forming a tetrahedral alkoxide intermediate."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "S(CCCC(C)C)C(C(F)(F)F)(C(O)(C)(CCCC(C)C))S(CCCC(C)C)","step_weight": 0,"rationale": "Acidic workup protonates the alkoxide oxygen, favored by the high basicity of the alkoxide and the availability of protons in the acidic medium."}],"description": "n-BuLi deprotonates the acidic C2 of the dithiane, generating a stabilized carbanion via sulfur’s inductive and resonance effects. This nucleophile attacks the electrophilic aldehyde carbon, forming an alkoxide, which is protonated during acidic workup to yield the hydroxylated dithiane product."}
{"reaction_id": "NR-310_1-c1cnccc1_2-C(F)(F)F_3-C_4-C(=O)OC_5-c1ccccc1_6-OS(=O)(=O)c1ccc(C)cc1_7-P(c1ccccc1)(c1ccccc1)c1ccccc1","level": "medium","name": "Tsuji-Trost Reaction","reactants_smiles": ["c1cnccc1C(C(F)(F)F)=C(C)C(C(=O)OC)(c1ccccc1)(OS(=O)(=O)c1ccc(C)cc1)","N#CCC#N","[Pd]"],"products_smiles": ["c1cnccc1C(C(F)(F)F)=C(C)C(C(=O)OC)(c1ccccc1)C(C#N)C#N"],"conditions": "Ligand, Base (e.g. NaH), Pd","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "C(c1cnccc1)(C(F)(F)F)=C(C)C([Pd](OS(=O)(=O)c1ccc(C)cc1)(P(c1ccccc1)(c1ccccc1)c1ccccc1)(P(c1ccccc1)(c1ccccc1)c1ccccc1))(C(=O)OC)(c1ccccc1)","step_weight": 0,"rationale": "Pd(0) coordinates to the allylic system and undergoes oxidative addition due to the good leaving group ability and stabilization of the resulting π-allyl–Pd(II) complex by conjugation."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[CH-](C#N)C#N","step_weight": 0,"rationale": "The base deprotonates malononitrile, as the α-proton is highly acidic due to strong electron-withdrawing cyano groups stabilizing the resulting carbanion."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "N#CC(C#N)C(C(=O)OC)(c1ccccc1)/C1(C)[Pd](P(c1ccccc1)(c1ccccc1)c1ccccc1)(P(c1ccccc1)(c1ccccc1)c1ccccc1)C1(C(F)(F)F)(c1cnccc1)","step_weight": 0,"rationale": "The nucleophilic carbanion attacks the electrophilic π-allyl–Pd complex at the less hindered terminus, favored by orbital overlap and reduced steric hindrance."},{"step": 4,"type": "dissociation","subtype": "dissociation","intermediate_smiles": "c1cnccc1C(C(F)(F)F)=C(C)C(C(=O)OC)(c1ccccc1)C(C#N)C#N","step_weight": 0,"rationale": "Product dissociates via reductive elimination, regenerating Pd(0) due to the thermodynamic stability of the C–C bond and the catalyst turnover requirement."}],"description": "In the Tsuji–Trost reaction, Pd(0) first undergoes oxidative addition to the allylic substrate, forming a π-allyl–Pd complex. The base deprotonates malononitrile to generate a stabilized nucleophile, which attacks the π-allyl complex. Reductive elimination releases the substituted product and regenerates Pd(0)."}
